US06417349B1
A silica gel (70-230 mesh) was filled in a column with a diameter of 6 cm and a length of 26 cm by using a mobile phase (normal butanol:ethanol:ammonia water:water=60:40:5:10). Thereafter, 1 g of WS-TECA was dissolved in as little amount of the mobile phase as possible and loaded thereon. The mobile phase was allowed to flow at a constant rate and fractionated in 25 ml bottles to obtain 400 mg of pure asiaticoside and madecassoside each.

reactant | normal butanol | C(CCC)O | C4H10O
reactant | ethanol | C(C)O | C2H6O
reactant | ammonia water | O.N
reactant | madecassoside | C[C@@H]1CC[C@@]2(CC[C@]3(C(=CC[C@H]4[C@]3(C[C@H]([C@@H]5[C@@]4(C[C@H]([C@@H]([C@@]5(C)CO)O)O)C)O)C)[C@@H]2[C@H]1C)C)C(=O)O[C@H]6[C@@H]([C@H]([C@@H]([C@H](O6)CO[C@H]7[C@@H]([C@H]([C@@H]([C@H](O7)CO)O[C@H]8[C@@H]([C@@H]([C@H]([C@@H](O8)C)O)O)O)O)O)O)O)O | C48H78O20
solvent | water | O | H2O
product | asiaticoside | 400 mg | C[C@@H]1CC[C@@]2(CC[C@@]3(C(=CC[C@H]4[C@]3(CC[C@@H]5[C@@]4(C[C@H]([C@@H]([C@@]5(C)CO)O)O)C)C)[C@@H]2[C@H]1C)C)C(=O)O[C@H]6[C@@H]([C@H]([C@@H]([C@H](O6)CO[C@H]7[C@@H]([C@H]([C@@H]([C@H](O7)CO)O[C@H]8[C@@H]([C@@H]([C@H]([C@H](O8)C)O)O)O)O)O)O)O)O | C48H78O19
